US06147088
Step B: 2-(2-acetylsulfanylethyl)-piperidine-1-carboxylic acid benzyl ester
To a solution of triphenylphosphine (3.99 g in 35 mL dry tetrahydrofuran) was added 3.0 mL diisopropyl azodicarboxylate and the mixture stirred at 0° C. for 30 minutes. At this time, 2.0 g of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester was added followed by the dropwise addition of a solution of 1.16 g thioacetic acid in 19 mL tetrahydrofuran. After 2 hours, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (hexane:methylene chloride, 1:1) to give the title compound.

reactant | triphenylphosphine | 35 mL, 3.99 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.0 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester | 2.0 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCO | C15H21NO3
reactant | thioacetic acid | 1.16 g | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
product | 2-(2-acetylsulfanylethyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCSC(C)=O | C17H23NO3S
